*SPICE model for MSA0686
*Start Package model 
.SUBCKT MSA0686   OUT   IN   GND
* PI NETWORK TO SIMULATE TRANSMISSION LINE T1
C1T1    11      0       .059PF
LT1     11      12      .493NH
C2T1    12      0       .059PF
* PI NETWORK TO SIMULATE TRANSMISSION LINE T2
C1T2    14      0       .042PF
LT2     14      15      .076NH
C2T2    15      0       .042PF
* PI NETWORK TO SIMULATE TRANSMISSION LINE T3
C1T3    13      0       .039PF
LT3     13      DIEOUT  .330NH
C2T3    DIEOUT  0       .039PF
* Bond wire inductance
LLB     12      DIEIN   .55NH
LLE     15      DIEGND  .1NH
* Contact inductance
LL1     IN      11      .55NH
LL2     GND     14      .06NH
LL3     OUT     13      .25NH
*Parasitic capacitances
CCEB    12      15      .02PF
CCEC    15      DIEOUT  .03PF
CCBC    12      DIEOUT  .03PF
* INSERT DIE MODEL
XA06DIE DIEOUT  DIEIN   DIEGND  MSA06
.ENDS
*end Package model
*
* Start die model
.SUBCKT MSA06   DIEOUT  DIEIN   DIEGND
RF      DIEIN   DIEOUT  600   
RB      DIEIN   DIEGND  480   
RBIAS   Q1E     DIEGND  157   
RE      Q2E     DIEGND  0
CF      DIEIN   DIEOUT  0.083PF
CP1     Q1E     DIEOUT  0.019PF
CP2     Q2E     DIEOUT  0.010PF
CP3     DIEGND  DIEOUT  0.085PF
XA06Q1  DIEOUT  DIEIN   Q1E     A06Q1
XA06Q2  DIEOUT  Q1E     Q2E     A06Q2
.ENDS
* Q1 distributed base model
.SUBCKT A06Q1   Q1C     Q1B    Q1E
RB1     Q1B     11     .095  
RB2     11      12     3.26  
RB3     12      B1     2.83  
RE      E1      Q1E    0.22  
RC      C1      Q1C    10    
Q1      C1      B1     E1      QMSA    438
DCD1    Q1B     C1     DMOD    782
DCD2    11      C1     DMOD    609
DCD3    12      C1     DMOD    386
.ENDS
* Q2 distributed base model
.SUBCKT A06Q2   Q2C     Q2B     Q2E
RB1     Q2B     21     0.95   
RB2     21      22     3.26   
RB3     22      B2     2.83   
RE      E2      Q2E    0.22   
RC      C2      Q2C    10     
Q1      C2      B2     E2       QMSA    438
DCD1    Q2B     C2     DMOD     782
DCD2    21      C2     DMOD     609
DCD3    22      C2     DMOD     386
.ENDS
* DIODE AND TRANSISTOR MODELS USED IN AGILENT TECHNOLOGIES MMICS AND DISCRETES
.MODEL  DMOD    D(IS=1E-25, CJO=2.45E-16, VJ=.76, M=.53, BV=45, IBV=1E-9)
.MODEL  QMSA    NPN (BF=90, BR=5, IS=1.65E-18, VA=20, TF=12PS,
+               CJE=1.8E-15, VJE=1.01, MJE=0.6, PTF=25, XTB=1.818,
+               VTF=6, ITF=3E-4, IKF=1.333E-4, XTF=4, NF=1.03, ISE=5E-15,
 +               NE=2.5)
*end Die model